US05912262
2,2'-Dihydroxy-5,5'-dichlorobenzophenone (12.1 g, 0.042 mol, prepared similarly as described in Journal of the American Chemical Society 77, 543 (1955)) and diiodomethane (11.9 g, 0.044 mol) were dissolved in dry N,N-dimethylformamide (226 ml). Dried and powdered potassium carbonate (8.3 g) was added and the mixture was heated at 105° C. for 5 h and left overnight at room temperature. The reaction mixture was poured on ice (220 g). The precipitate was collected by filtration after 0.5 h and dissolved in diethyl ether (500 ml). The organic layer was washed with 5% sodium hydroxide (50 ml), dried over MgSO4 and evaporated in vacuo, affording 12 g (96%) of 2,10-dichloro-12H-dibenzo[d,g][1,3]-dioxocin-12-one as a solid.

reactant | 2,2'-Dihydroxy-5,5'-dichlorobenzophenone | OC1=C(C(=O)C2=C(C=CC(=C2)Cl)O)C=C(C=C1)Cl | C13H8Cl2O3
reactant | diiodomethane | 0.044 mol, 11.9 g | ICI | CH2I2
solvent | N,N-dimethylformamide | 226 ml | CN(C=O)C | C3H7NO
product | 2,10-dichloro-12H-dibenzo[d,g][1,3]-dioxocin-12-one | 12 g, 96% | ClC1=CC2=C(OCOC3=C(C2=O)C=C(C=C3)Cl)C=C1 | C14H8Cl2O3
